US06074650
XII. N-(α-Tetradecyl-β-hydroxyoctadecanoyl)cysteine
N-(α-Tetradecyl-β-hydroxyoctadecanoyl)cysteine tert.-butyl ester (1 g, 1.5 mmol) is treated with anhydrous trifluoroacetic acid for 1/2 h, and the latter is then removed in a rotary evaporator under high vacuum. The residue is dissolved in tert.-butanol and is freeze-dried.

reactant | N-(α-Tetradecyl-β-hydroxyoctadecanoyl)cysteine tert.-butyl ester | 1.5 mmol, 1 g | C(C)(C)(C)OC([C@@H](NC(C(=O)CCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCC)O)CS)=O | C39H77NO4S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-(α-Tetradecyl-β-hydroxyoctadecanoyl)cysteine | C(CCCCCCCCCCCCC)C(C(CCCCCCCCCCCCCCCC)(O)N[C@@H](CS)C(=O)O)=O | C35H69NO4S
